US07666883B2
Experimental Procedure for the Synthesis of Methyl 6-chloro-5-[hydroxy(5-oxo-1-cyclopentenyl)methyl]-2-pyridinecarboxylate (IIe)
The clear solution of Methyl 6-chloro-5-formyl-2-pyridincarboxylate (10 mmol, 1.99 g) and imidazole (10 mmol) in 50 ml. of MeOH was slowly charged with 50 ml. of deionized water. To a stirred homogeneous reaction mixture was added 2-cyclopenten-1-one (10.2 mmol., 0.88 g) at room temperature and reaction progress was monitored by TLC. Upon completion of the reaction excess MeOH was removed under reduced pressure, washed with water and extracted with CHCl3 thrice. Combined organic layers were washed with brine solution twice. The organic layer was concentrated and column chromatography of the crude product on silica gel, using 30% EtOAC in hexane as eluent, gave pure Baylis-Hillman adduct in 90% yield (2.53 g).

reactant | Methyl 6-chloro-5-formyl-2-pyridincarboxylate | 10 mmol, 1.99 g | ClC1=C(C=CC(=N1)C(=O)OC)C=O | C8H6ClNO3
reactant | imidazole | 10 mmol | N1C=NC=C1 | C3H4N2
reactant | 2-cyclopenten-1-one | 10.2 mmol, 0.88 g | C1(C=CCC1)=O | C5H6O
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | Methyl 6-chloro-5-[hydroxy(5-oxo-1-cyclopentenyl)methyl]-2-pyridinecarboxylate | 90% yield | ClC1=C(C=CC(=N1)C(=O)OC)C(C1=CCCC1=O)O | C13H12ClNO4
